US07973039B2
Step b) Formation of 2,2-dimethyl-6-morpholin-4-ylhex-4-yn-1-ol
To a solution of ethyl 2,2-dimethyl-6-morpholin-4-ylhex-4-ynoate (380 mg; 1.50 mmol) in THF (5 mL) at 0° C. was added LiAlH4 (2.25 mL; solution 1.00 M in THF; 2.25 mmol). The mixture was stirred at 0° C. for 1 h and quenched with water (80 μL), 80 μL NaOH 15% (80 μL) and water (3×80 μL). The suspension thus obtained was then filtrated through a celite pad and rinsed several times with EtOAc. The filtrate was concentrated under reduced pressure to give 302 mg of the title compound as an orange oil (307 mg, 97% yield). GC/MS, m/z: 211, Rt: 4.13 min.

reactant | ethyl 2,2-dimethyl-6-morpholin-4-ylhex-4-ynoate | 1.50 mmol, 380 mg | CC(C(=O)OCC)(CC#CCN1CCOCC1)C | C14H23NO3
reactant | LiAlH4 | 2.25 mmol, 1.00 M, 2.25 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-6-morpholin-4-ylhex-4-yn-1-ol | 302 mg, 97% yield | CC(CO)(CC#CCN1CCOCC1)C | C12H21NO2
